US06908926B1
3-(10,11-Dihydro-5H-dibenzo[b,f]azepin-5-yl)propionic acid ethyl ester (1.41 g, 4.77 mmol) was dissolved in ethanol (30 mL) and a solution of sodium hydroxide (0.75 g, 18.8 mmol) in water (5 mL) was added. The mixture was stirred for 3.5 h. 1 N Hydrochloric acid (17 mL) was added and the mixture was extracted with DCM (2×25 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4) and the solvent was evaporated to give 1.18 g (92%) of 3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)propionic acid.

reactant | 3-(10,11-Dihydro-5H-dibenzo[b,f]azepin-5-yl)propionic acid ethyl ester | 4.77 mmol, 1.41 g | C(C)OC(CCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C19H21NO2
reactant | sodium hydroxide | 18.8 mmol, 0.75 g | [OH-].[Na+]
reactant | Hydrochloric acid | 1 N, 17 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)propionic acid | 1.18 g, 92% | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCC(=O)O | C17H17NO2
